US06967197B2
To a solution of N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (100 mg) in N,N-dimethylformamide (3 ml) was added triethylamine (57 mg) and cyclopropylaminocarbonyloxybenzene (40 mg) and the reaction mixture was heated at 50° C. for 4 hours. The mixture was added ethyl acetate and the solution was washed with successively water, a 5% aqueous citric acid-solution, a satuated aqueous sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel 60 (2% methanol-chloroform) to give N-(2-tetrahydropyranyloxy)-2-[4-cyclopropylaminocarbonyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (65 mg) as a pale yellow powder.

reactant | N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 100 mg | O1C(CCCC1)ONC(CC1(CCNCCS1(=O)=O)C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)=O | C25H29N3O6S2
reactant | triethylamine | 57 mg | C(C)N(CC)CC | C6H15N
reactant | cyclopropylaminocarbonyloxybenzene | 40 mg | C1(CC1)NC(=O)OC1=CC=CC=C1 | C10H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(2-tetrahydropyranyloxy)-2-[4-cyclopropylaminocarbonyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 65 mg | O1C(CCCC1)ONC(CC1(CCN(CCS1(=O)=O)C(=O)NC1CC1)C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)=O | C29H34N4O7S2
